US08314087B2
N-(1-(2-(7-Methoxyquinolin-4-yloxy)ethyl)-6-oxo-1,6-dihydropyridin-3-yl)benzamide
A suspension of 5-bromo-1-(2-(7-methoxyquinolin-4-yloxy)ethyl)pyridin-2(1 H)-one (220 mg, 586 μmol), benzamide (213 mg, 1759 μmol), n,n′-dimethylethylenediamine (189 μl, 1759 μmol), copper(I) iodide (167 mg, 879 μmol), and cesium carbonate (573 mg, 1759 μmol) in toluene (3 mL) was sparged with argon then heated to 120° C. for 90 min. The mixture was partioned between CH2Cl2 and 5% NaHCO3 and the hazy organic was washed with 30% NH4OH, dried over MgSO4, and concentrated onto silica (10 g) and purified on silica (12 g) eluting with 0 to 6% of 2M NH3 in MeOH/CH2Cl2. A solid crystallized upon evaporation of selected fractions as a white solid. MS (ESI pos. ion) m/z (MH+): 416. Calc'd exact mass for C24H21N3O4: 415. 1H NMR (400 MHz, DMSO-d6) δ ppm 10.07 (s, 1 H) 8.62 (d, J=4.5 Hz, 1 H) 8.19 (d, J=9.0 Hz, 1 H) 7.96 (d, J=7.5 Hz, 2 H) 7.51-7.66 (m, 4 H) 7.28 (d, J=2.5 Hz, 1 H) 7.03 (dd, J=9.0, 2.5 Hz, 1 H) 6.92 (d, J=5.5 Hz, 1 H) 6.48 (d, J=10.0 Hz, 1 H), 4.48 (s, 4 H), 3.86 (s, 3 H).

reactant | 5-bromo-1-(2-(7-methoxyquinolin-4-yloxy)ethyl)pyridin-2(1 H)-one | 586 μmol, 220 mg | BrC=1C=CC(N(C1)CCOC1=CC=NC2=CC(=CC=C12)OC)=O | C17H15BrN2O3
reactant | benzamide | 1759 μmol, 213 mg | C(C1=CC=CC=C1)(=O)N | C7H7NO
reactant | cesium carbonate | 1759 μmol, 573 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
catalyst | copper(I) iodide | 879 μmol, 167 mg | [Cu]I
product | N-(1-(2-(7-Methoxyquinolin-4-yloxy)ethyl)-6-oxo-1,6-dihydropyridin-3-yl)benzamide | COC1=CC=C2C(=CC=NC2=C1)OCCN1C=C(C=CC1=O)NC(C1=CC=CC=C1)=O | C24H21N3O4
